US05997838
15,903 kg of 31.5% hydrochloric acid, 1,352 kg of water and 1,761 kg of 93.5% sulfuric acid are added to a 10,000 gallon (37,850 liter) brick-lined, rubber coated steel reactor equipped with an agitator and fume scrubber. While the solution is being agitated, 9,869 kg of aluminum oxide wet filtercake (59% Al2O3) is added such that a slurry is maintained. The mixture is recycled through a heat exchanger to raise it temperature to 60 degrees centigrade. Although the application of external heat is stopped at this point, the exothermic reaction forming aluminum chlorosulfate continues to raise the batch temperature. An additional 15,903 kg of 31.5% hydrochloric acid is then added to the batch such that the temperature does not exceed 90 degrees centigrade or fall below 60 degrees centigrade. If the temperature is allowed to exceed 90 degrees at this time, there is a risk of the batch boiling out of the reactor. If the temperature falls below 60 degrees, the batch may require additional heating to continue the reaction.

reactant | hydrochloric acid | 15,903 kg | Cl | ClH
reactant | sulfuric acid | 1,761 kg | S(O)(O)(=O)=O | H2O4S
reactant | aluminum oxide | 9,869 kg | [O-2].[Al+3].[O-2].[O-2].[Al+3]
solvent | water | 1,352 kg | O | H2O
product | aluminum chlorosulfate | S(=O)(=O)([O-])Cl.[Al+3].S(=O)(=O)([O-])Cl.S(=O)(=O)([O-])Cl | InChI=1S/Al.3ClHO3S/c;3*1-5(2,3)4/h;3*(H,2,3,4)/q+3;;;/p-3
